2119-04-06 07:41:00 Physician Resident Progress Note
Chief Complaint: Likely VF arrest, unknown cause.
   24 Hour Events:
 EKG - At [**2119-4-6**] 04:38 AM
   - started warming at 5pm
   - EEG: burst suppression, no seizure activity
   - UOP decreasing and hypotensive in setting of medications below
   - 1 am paralytics weaned and the patient started seizing with myclonic
   jerks; called neuro who rec'd ativan and dilantin...gave 2 mg ativan x
   2, then 4 mg x 3 (on top of medazolam gtt) and loaded with 1500 mg
   dilantin (Will need to check dilantin level 3 hrs post load and base am
   dose off of that)...with mild improvement but continued jerking
   - 4 am Pt still seizing so started propofol and phosphenytoin 1 gm with
   improvement
   - ABG showed worsening hypercapnia and hypoxia so increased Fio2 and
   got CXR
   - in atrial fibrilation
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Ibuprofen
   GI upset;
   Procainamide
   Diarrhea;
   Sotalol
   Fatigue;
   Amiodarone
   'Slight decrea
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 5 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2119-4-6**] 01:38 AM
   Lorazepam (Ativan) - [**2119-4-6**] 03:51 AM
   Fosphenytoin - [**2119-4-6**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   HR: 73 (58 - 97) bpm
   BP: 81/42(51) {81/42(51) - 81/42(51)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    683 mL
                                                                  1,632 mL
   PO:
             TF:
   IVF:
                                                                    623 mL
                                                                  1,632 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    430 mL
   Urine:
                                                                    795 mL
                                                                     30 mL
   NG:
                                                                    440 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                  1,202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.25/49/95.[**Numeric Identifier 253**]/21/-5
   Ve: 10.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   GENERAL: Overweight man with myoclonus every 10 to 20 seconds involving
   limbs, primarily. GCS 3. Looks stated age.
   HEENT: NCAT. Sclera anicteric. Pupils fixed in mid-position.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple, JVP not evaluated - patient flat.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Intubated with mechanical ventilation, occasional overbreaths of
   vent initially. Bilateral air entry. No loud adventitious sounds
   anteriorly, laterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   NEUROLOGIC: Myoclonus every 10 to 20 seconds involving limbs,
   primarily, but only when Versed and propofol stopped.  GCS 3. Comatose.
   No puposive movements. Myoclonus only. No withdrawal to very firm
   nail-bed pressure. No brainstem reflexes (apart from breathing on PSV
   as evidence of some brainstem function). Spinal reflexes 3+ throughout
   without plantar response. Tone flacid. Bulk normal. Myoclonus present
   in all limbs, but strength could not be assessed.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Trophic
   changes evident at feet/ankles.
   Labs / Radiology
   248 K/uL
   11.3 g/dL
   154 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   30 mg/dL
   111 mEq/L
   143 mEq/L
   35.3 %
   17.3 K/uL
        [image002.jpg]
                             [**2119-4-5**]  12:07 PM
                             [**2119-4-5**]  02:36 PM
                             [**2119-4-5**]  04:36 PM
                             [**2119-4-5**]  06:00 PM
                             [**2119-4-5**]  11:37 PM
                             [**2119-4-6**]  03:32 AM
                             [**2119-4-6**]  04:03 AM
                             [**2119-4-6**]  05:06 AM
                             [**2119-4-6**]  05:17 AM
                             [**2119-4-6**]  06:15 AM
   WBC
   17.3
   Hct
   35.3
   Plt
   248
   Cr
   1.0
   1.1
   1.7
   TCO2
   23
   21
   25
   22
   18
   22
   23
   Glucose
   96
   106
   154
   Other labs: PT / PTT / INR:42.1/34.1/4.5, CK / CKMB /
   Troponin-T:175/18/0.15, ALT / AST:43/70, Alk Phos / T Bili:57/0.3,
   Differential-Neuts:79.9 %, Lymph:16.7 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:344 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CT head final read, periventricular hypodensity, possibly
   chronic, but given territory and presentation, cannot exclude
   hypoperfusion injury.
   Microbiology: Blood and urine cultures pending.
   ECG: .
   ASSESSMENT
   .
   This 70-year-old man has had a witnessed cardiac arrest at home with
   CRP by his daughter at the scene. VF was noted in EMS. He was rapidly
   cooled, but his neurologic unresponsiveness and myoclonus is concerning
   for severe hypoxic injury. The etiology of this presentation is
   unclear.
   .
   PLAN
   .
   Coma
     GCS 3. Spinal relexes 3+ now, mute plantar, without brainstem
   reflexes. However, appropriate respiratory drive given pH and CO2,
   suggesting brainstem respiratory circuitry largely intact. EEG still
   quite isoelectric with some beta with benzodiazepines. Return of burst
   suppression pattern when Versed and fentanyl were held this morning.
   Also some generalized myoclonic jerks. Altogether some recovery seen
   (spinal reflexes and only minimal ataxic breathing at presentation),
   but little and prognosis likely still bad. Neurology are following and
   will help prognosticate/manage. Family aware of these thoughts,
   broadly.
   - EEG overnight or 48 hours
   - Appreciate Neurology input with respect to EEG
   - Continue cooling for 12 - 24 hours, per protocol, then re-evaluate
   neurologic status as rewarmed, sedation and paralysis weaned.
   - Stop dilantin, per later recs from Neurlogy team.
   .
   Cardiorespiratory (VF?) Arrest
     Differential diagnosis includes arhythmia, pulmonary embolism,
   myocardial ischemia, perhaps resulting in arhythmia, toxic. CTA was
   negative on wet read, ischemia appears not to be profound, given
   enzymes and EKG, toxicity is possible. Arhythmia is possible,
   particularly if digoxin was being taken incorrectly, if too much
   methylphenidate was being taken (he was recorded as taking 20 mg).
   Given low level of digoxin (0.7) and history of non-compliance with
   glipizide dosing (per PCP), medication non-compliance or error is also
   possible. He takes three anti-arhythmic medications (atenolol,
   diltiazem and digoxin). Was likely VF arrest based on EMS report. Given
   that he struck his head, likely arrhythmia (sudden LOC).
   - Telemetry
   - Was on diltiazem 300 mg/d and atenolol 100 mg/d, so may need to add
   some block back
   - metoprolol 5 mg IV q4h
   .
   Arhythmia, Ventricular ectopy
     Substantial ventricular ectopy, short runs of VT. Patient takes
   diltiazem, atenolol, digoxin at home. Given frequent ectopy will add
   back small doses, given cooling.
   - Metoprolol 5 mg IV q4h
   - Hold digoxin, diltiazem
   - Telemetry
   - EKG in a.m.
   - Hold warfarin - supratherapeutic
   .
   Gastroparesis
     In context of arrest, possible hypoperfusion, then paralysis
   - Try pro-cholinergics if desire to give PO meds or tube feeds
 hold
   off for now
   .
   Fluid status
     No Pos given above and now quite negative by Is&Os.
   - Maintenance 1/2NSD5W at 125 cc/hr for 1 L then reevaluate
   .
   Hypotension (and hypertension)
     Improved with some fluid and brief phenylephrine. Was transient after
   catheterization, sedation, cooling. Now improved, but only relative
   given that we are hold antihypertensive meds.
   - Fluids and pressors to support pressure (phenylephrine)
   - Hold antihypertensives (enalapril, atenolol, diltiazem)
   .
   Coronary Artery Disease
     Active disease that is not thought to be sufficiently flow-limiting
   to produce symptomatic disease. Troponin/enzyme leak not surprising
   given DC cardioversion x 2 or 3 (unclear) and chest compressions, along
   with hypotension, hypoxia.
   - Telemetry
   - Continue rosuvastatin 20 mg
   - ASA 325 mg
   .
   Question of Gastrointestinal Bleeding
     Low suspicion now. Will not impact management at present. Some likely
   clot as cast within OG tube and then removed retaining shape. No other
   blood or concerning output. Could not suction stomach - think may be
   against wall. Low suspicion at present and Hct stable.
   - Continue ASA 325 given CAD
   - Follow hematocrit
   .
   Diabetes
     Insulin IV for now, given hyperglycemia on arrival.
   - Convert to sliding scale
   - Hold metformin and glipizide while inpatient
   .
   Critical Care and Ventilator
   CMV on Arctic Sun. Now PSV and hypoxia despite good pH and CO2,
   suggestive of exchange limit
 likely secretions.
   - Intubation - change endotracheal tube for larger size in a.m. if any
   difficulties suctioning (only a 6)
   - Continue PSV, increase PEEP and try to wean FiO2
   .
   Head Injury
     Head CT clears for bleed and facture. Neck CT/spine CT not performed.
   - Keep in [**Location (un) 408**] J collar for now
   .
   Liver Enzyme Abnormalities
     Likely early shock liver, but may be medication induced or other.
   Will rise rapidly if shock liver.
   - Follow in a.m.
   .
   Acidosis
     Lactic acidosis, along with respiratory acidosis. Has gap that is
   closing and tracking lactate. Will check blood and urine cultures also,
   but likely secondary to hypoxia. Trending down.
   - Follow blood gas
   .
   Depression
   - Hold fluoxetine (t1/2 4 - 6 days)
   .
   GERD
     Given some possible UGIB:
   - Hold omeprazole
   - Give IV pantoprazole 40 mg [**Hospital1 **]
   .
   Inattentiveness
   - Hold methylphenidate 20 mg for now
   .
   BPH
   - Hold finasteride 5 mg for now
   .
   FEN:
   - No fluid for now
   - Electrolytes: Keep K > 4 and Mg > 2
   - No nutrition for tonight
   .
   ACCESS: PIV, femoral central venous line, femoral arterial line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with fentanyl
   -Bowel regimen with colace, senna, bisacodyl
   .
   CODE: Full code
   .
   COMM:
   Mrs. [**Known lastname 12604**] [**Telephone/Fax (1) 12607**], home [**Telephone/Fax (1) 12608**], daughter ([**Name (NI) 284**]) [**Telephone/Fax (1) 12609**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2119-4-4**] 02:55 PM
   20 Gauge - [**2119-4-4**] 03:00 PM
   Multi Lumen - [**2119-4-4**] 05:15 PM
   Arterial Line - [**2119-4-4**] 05:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2119-04-06 07:41:00 Physician Resident Progress Note
Chief Complaint: Likely VF arrest, unknown cause.
   24 Hour Events:
 EKG - At [**2119-4-6**] 04:38 AM
   - started warming at 5pm
   - EEG: burst suppression, no seizure activity
   - UOP decreasing and hypotensive in setting of medications below
   - 1 am paralytics weaned and the patient started seizing with myclonic
   jerks; called neuro who rec'd ativan and dilantin...gave 2 mg ativan x
   2, then 4 mg x 3 (on top of medazolam gtt) and loaded with 1500 mg
   dilantin (Will need to check dilantin level 3 hrs post load and base am
   dose off of that)...with mild improvement but continued jerking
   - 4 am Pt still seizing so started propofol and phosphenytoin 1 gm with
   improvement
   - ABG showed worsening hypercapnia and hypoxia so increased Fio2 and
   got CXR
   - in atrial fibrilation
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Ibuprofen
   GI upset;
   Procainamide
   Diarrhea;
   Sotalol
   Fatigue;
   Amiodarone
   'Slight decrea
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 5 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2119-4-6**] 01:38 AM
   Lorazepam (Ativan) - [**2119-4-6**] 03:51 AM
   Fosphenytoin - [**2119-4-6**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   HR: 73 (58 - 97) bpm
   BP: 81/42(51) {81/42(51) - 81/42(51)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    683 mL
                                                                  1,632 mL
   PO:
             TF:
   IVF:
                                                                    623 mL
                                                                  1,632 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    430 mL
   Urine:
                                                                    795 mL
                                                                     30 mL
   NG:
                                                                    440 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                  1,202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.25/49/95.[**Numeric Identifier 253**]/21/-5
   Ve: 10.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   11.3 g/dL
   154 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   30 mg/dL
   111 mEq/L
   143 mEq/L
   35.3 %
   17.3 K/uL
        [image002.jpg]
                             [**2119-4-5**]  12:07 PM
                             [**2119-4-5**]  02:36 PM
                             [**2119-4-5**]  04:36 PM
                             [**2119-4-5**]  06:00 PM
                             [**2119-4-5**]  11:37 PM
                             [**2119-4-6**]  03:32 AM
                             [**2119-4-6**]  04:03 AM
                             [**2119-4-6**]  05:06 AM
                             [**2119-4-6**]  05:17 AM
                             [**2119-4-6**]  06:15 AM
   WBC
   17.3
   Hct
   35.3
   Plt
   248
   Cr
   1.0
   1.1
   1.7
   TCO2
   23
   21
   25
   22
   18
   22
   23
   Glucose
   96
   106
   154
   Other labs: PT / PTT / INR:42.1/34.1/4.5, CK / CKMB /
   Troponin-T:175/18/0.15, ALT / AST:43/70, Alk Phos / T Bili:57/0.3,
   Differential-Neuts:79.9 %, Lymph:16.7 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:344 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CT head final read, periventricular hypodensity, possibly
   chronic, but given territory and presentation, cannot exclude
   hypoperfusion injury.
   Microbiology: Blood and urine cultures pending.
   ECG: .
   Assessment and Plan
 SEIZURE, WITH STATUS EPILEPTICUS
 DIABETES MELLITUS (DM), TYPE I
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2119-4-4**] 02:55 PM
   20 Gauge - [**2119-4-4**] 03:00 PM
   Multi Lumen - [**2119-4-4**] 05:15 PM
   Arterial Line - [**2119-4-4**] 05:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2119-04-06 07:41:00 Physician Resident Progress Note
Chief Complaint: Likely VF arrest, unknown cause.
   24 Hour Events:
 EKG - At [**2119-4-6**] 04:38 AM
   - started warming at 5pm
   - EEG: burst suppression, no seizure activity
   - UOP decreasing and hypotensive in setting of medications below
   - 1 am paralytics weaned and the patient started seizing with myclonic
   jerks; called neuro who rec'd ativan and dilantin...gave 2 mg ativan x
   2, then 4 mg x 3 (on top of medazolam gtt) and loaded with 1500 mg
   dilantin (Will need to check dilantin level 3 hrs post load and base am
   dose off of that)...with mild improvement but continued jerking
   - 4 am Pt still seizing so started propofol and phosphenytoin 1 gm with
   improvement
   - ABG showed worsening hypercapnia and hypoxia so increased Fio2 and
   got CXR
   - in atrial fibrilation
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Ibuprofen
   GI upset;
   Procainamide
   Diarrhea;
   Sotalol
   Fatigue;
   Amiodarone
   'Slight decrea
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 5 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2119-4-6**] 01:38 AM
   Lorazepam (Ativan) - [**2119-4-6**] 03:51 AM
   Fosphenytoin - [**2119-4-6**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   HR: 73 (58 - 97) bpm
   BP: 81/42(51) {81/42(51) - 81/42(51)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    683 mL
                                                                  1,632 mL
   PO:
             TF:
   IVF:
                                                                    623 mL
                                                                  1,632 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    430 mL
   Urine:
                                                                    795 mL
                                                                     30 mL
   NG:
                                                                    440 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                  1,202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.25/49/95.[**Numeric Identifier 253**]/21/-5
   Ve: 10.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   GENERAL: Overweight man with myoclonus every 10 to 20 seconds involving
   limbs, primarily. GCS 3. Looks stated age.
   HEENT: NCAT. Sclera anicteric. Pupils fixed in mid-position.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple, JVP not evaluated - patient flat.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Intubated with mechanical ventilation, occasional overbreaths of
   vent initially. Bilateral air entry. No loud adventitious sounds
   anteriorly, laterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   NEUROLOGIC: Myoclonus every 10 to 20 seconds involving limbs,
   primarily. GCS 3. Comatose. No puposive movements. Myoclonus only. No
   withdrawal to very firm nail-bed pressure. No brainstem or spinal
   reflexes (no doll's eyes, blink to threat, spontaneous eye movement,
   even during fundoscopy, no blink to glabella tap, no pout, jaw jerk,
   biceps, brachioradialis, knee, ankle or plantar reflexes bilaterally.
   Tone flacid. Bulk normal. Myoclonus present in all limbs, but strength
   could not be assessed.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Trophic
   changes evident at feet/ankles.
   Labs / Radiology
   248 K/uL
   11.3 g/dL
   154 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   30 mg/dL
   111 mEq/L
   143 mEq/L
   35.3 %
   17.3 K/uL
        [image002.jpg]
                             [**2119-4-5**]  12:07 PM
                             [**2119-4-5**]  02:36 PM
                             [**2119-4-5**]  04:36 PM
                             [**2119-4-5**]  06:00 PM
                             [**2119-4-5**]  11:37 PM
                             [**2119-4-6**]  03:32 AM
                             [**2119-4-6**]  04:03 AM
                             [**2119-4-6**]  05:06 AM
                             [**2119-4-6**]  05:17 AM
                             [**2119-4-6**]  06:15 AM
   WBC
   17.3
   Hct
   35.3
   Plt
   248
   Cr
   1.0
   1.1
   1.7
   TCO2
   23
   21
   25
   22
   18
   22
   23
   Glucose
   96
   106
   154
   Other labs: PT / PTT / INR:42.1/34.1/4.5, CK / CKMB /
   Troponin-T:175/18/0.15, ALT / AST:43/70, Alk Phos / T Bili:57/0.3,
   Differential-Neuts:79.9 %, Lymph:16.7 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:344 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CT head final read, periventricular hypodensity, possibly
   chronic, but given territory and presentation, cannot exclude
   hypoperfusion injury.
   Microbiology: Blood and urine cultures pending.
   ECG: .
   ASSESSMENT
   .
   This 70-year-old man has had a witnessed cardiac arrest at home with
   CRP by his daughter at the scene. VF was noted in EMS. He was rapidly
   cooled, but his neurologic unresponsiveness and myoclonus is concerning
   for severe hypoxic injury. The etiology of this presentation is
   unclear.
   .
   PLAN
   .
   Cardiorespiratory (VF?) Arrest
     Differential diagnosis includes arhythmia, pulmonary embolism,
   myocardial ischemia, perhaps resulting in arhythmia, toxic. CTA was
   negative on wet read, ischemia appears not to be profound, given
   enzymes and EKG, toxicity is possible. Arhythmia is possible,
   particularly if digoxin was being taken incorrectly, if too much
   methylphenidate was being taken (he was recorded as taking 20 mg).
   Given low level of digoxin (0.7) and history of non-compliance with
   glipizide dosing (per PCP), medication non-compliance or error is also
   possible. He takes three anti-arhythmic medications (atenolol,
   diltiazem and digoxin). Was likely VF arrest based on EMS report.
   - Further history from daughter, who was present when he collapsed
   - CTA (done and wet read negative) - f/u final read
   - F/u Urine and serum toxicology
   - Telemetry
   - Initiate therapeutic hypothermia with goal temp 34.5 C. HOB > 30
   degrees, goal pCO2 35-40. Page with questions - [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1580**] [**Numeric Identifier 5172**]
   - Add to VF arrest hypothermia study and randomize to receive
   hydrocortisone 100 q8h IV for 7 days post-arrest.
   .
   Arhythmia, Ventricular ectopy
     Substantial ventricular ectopy, short runs of VT. Patient takes
   diltiazem, atenolol, digoxin at home. Given frequent ectopy will add
   back small doses, given cooling.
   - Metoprolol 25 mg PO BID
   - Defer digoxin until a.m.
   - Diltiazem 30 mg PO q6h
   - Telemetry
   - EKG in a.m.
   - Warfarin 5 mg PO QD
   .
   Coma
     Likely hypoxic injury given non-responsiveness and myoclonus.
   Difficult to determine outcome at present, particularly given sedation,
   cooling, paralysis, other medications. Nonetheless, neurologic
   examination shows no reflex activity whatever. Myoclonus can sometimes
   represent post-hypoxic myoclonic epilepsy. EEG at present shows
   near-isoelectric potentials interupted by bursts of slow activity with
   superimposed faster rhythm at similar intervals to which myoclonus was
   observed before paralysis. Seizure possible and will treat if
   indicated.
   - EEG overnight or 48 hours
   - Appreciate Neurology input with respect to EEG
   - Continue cooling for 12 - 24 hours, per protocol, then re-evaluate
   neurologic status as rewarmed, sedation and paralysis weaned.
   .
   Hypotension (and hypertension)
     Improved with some fluid and brief phenylephrine. Will follow,
   particularly now giving back some diltiazem. Was transient after
   catheterization, sedation, cooling.
   - Fluids and pressors to support pressure (phenylephrine)
   - Hold antihypertensives (enalapril, atenolol)
   .
   Coronary Artery Disease
     Active disease that is not thought to be sufficiently flow-limiting
   to produce symptomatic disease. Troponin/enzyme leak not surprising
   given DC cardioversion x 2 or 3 (unclear) and chest compressions, along
   with hypotension, hypoxia.
   - Trend enzymes
   - EKG
   - Telemetry
   - Continue rosuvastatin 20 mg
   - ASA 325 mg
   .
   Question of Gastrointestinal Bleeding
     Some likely clot as cast within OG tube and then removed retaining
   shape. No other blood or concerning output. Could not suction stomach -
   think may be against wall. Low suspicion at present and Hct stable.
   - Continue ASA 325 given CAD
   - Heparin SC TID
   - Warfarin to continue
   - Follow hematocrit
   .
   Diabetes
     Insulin IV for now, given hyperglycemia on arrival. Will convert to
   sliding scale when re-warmed.
   - Insulin IV sliding scale gtt
   - Hold metformin and glipizide while inpatient
   .
   Critical Care and Ventilator
   - Initiate therapeutic hypothermia with goal temp 33C. HOB>30 degrees,
   goal pCO2 35-40. Page with questions - [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1580**] [**Numeric Identifier 5172**]
   - Intubation - change endotracheal tube for larger size in a.m. if any
   difficulties suctioning (only a 6)
   - CMV while paralysed and on Artic Sun
   .
   Head Injury
     Head CT clears for bleed and facture. Neck CT/spine CT not performed.
   - Keep in [**Location (un) 408**] J collar until discuss in a.m.
   .
   Liver Enzyme Abnormalities
     Likely early shock liver, but may be medication induced or other.
   Will rise rapidly if shock liver.
   - Follow in a.m.
   .
   Acidosis
     Lactic acidosis, along with respiratory acidosis. Has gap that is
   closing and tracking lactate. Will check blood and urine cultures also,
   but likely secondary to hypoxia. Trending down.
   - Follow blood gas
   .
   Depression
   - Hold fluoxetine (t1/2 4 - 6 days)
   .
   GERD
     Given some possible UGIB:
   - Hold omeprazole
   - Give IV pantoprazole 40 mg [**Hospital1 **]
   .
   Inattentiveness
   - Hold methylphenidate 20 mg for now
   .
   BPH
   - Hold finasteride 5 mg for now
   .
   FEN:
   - No fluid for now
   - Electrolytes: Keep K > 4 and Mg > 2
   - No nutrition for tonight
   .
   ACCESS: PIV, femoral central venous line, femoral arterial line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with fentanyl
   -Bowel regimen with colace, senna, bisacodyl
   .
   CODE: Full code
   .
   COMM:
   Mrs. [**Known lastname 12604**] [**Telephone/Fax (1) 12607**], home [**Telephone/Fax (1) 12608**], daughter ([**Name (NI) 284**]) [**Telephone/Fax (1) 12609**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2119-4-4**] 02:55 PM
   20 Gauge - [**2119-4-4**] 03:00 PM
   Multi Lumen - [**2119-4-4**] 05:15 PM
   Arterial Line - [**2119-4-4**] 05:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2119-04-06 07:41:00 Physician Resident Progress Note
Chief Complaint: Likely VF arrest, unknown cause.
   24 Hour Events:
 EKG - At [**2119-4-6**] 04:38 AM
   - started warming at 5pm
   - EEG: burst suppression, no seizure activity
   - UOP decreasing and hypotensive in setting of medications below
   - 1 am paralytics weaned and the patient started seizing with myclonic
   jerks; called neuro who rec'd ativan and dilantin...gave 2 mg ativan x
   2, then 4 mg x 3 (on top of medazolam gtt) and loaded with 1500 mg
   dilantin (Will need to check dilantin level 3 hrs post load and base am
   dose off of that)...with mild improvement but continued jerking
   - 4 am Pt still seizing so started propofol and phosphenytoin 1 gm with
   improvement
   - ABG showed worsening hypercapnia and hypoxia so increased Fio2 and
   got CXR
   - in atrial fibrilation
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Ibuprofen
   GI upset;
   Procainamide
   Diarrhea;
   Sotalol
   Fatigue;
   Amiodarone
   'Slight decrea
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 5 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2119-4-6**] 01:38 AM
   Lorazepam (Ativan) - [**2119-4-6**] 03:51 AM
   Fosphenytoin - [**2119-4-6**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   HR: 73 (58 - 97) bpm
   BP: 81/42(51) {81/42(51) - 81/42(51)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    683 mL
                                                                  1,632 mL
   PO:
             TF:
   IVF:
                                                                    623 mL
                                                                  1,632 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    430 mL
   Urine:
                                                                    795 mL
                                                                     30 mL
   NG:
                                                                    440 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                  1,202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.25/49/95.[**Numeric Identifier 253**]/21/-5
   Ve: 10.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   GENERAL: Overweight man with myoclonus every 10 to 20 seconds involving
   limbs, primarily. GCS 3. Looks stated age.
   HEENT: NCAT. Sclera anicteric. Pupils fixed in mid-position.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple, JVP not evaluated - patient flat.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Intubated with mechanical ventilation, occasional overbreaths of
   vent initially. Bilateral air entry. No loud adventitious sounds
   anteriorly, laterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   NEUROLOGIC: Myoclonus every 10 to 20 seconds involving limbs,
   primarily, but only when Versed and propofol stopped.  GCS 3. Comatose.
   No puposive movements. Myoclonus only. No withdrawal to very firm
   nail-bed pressure. No brainstem reflexes (apart from breathing on PSV
   as evidence of some brainstem function). Spinal reflexes 3+ throughout
   without plantar response. Tone flacid. Bulk normal. Myoclonus present
   in all limbs, but strength could not be assessed.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Trophic
   changes evident at feet/ankles.
   Labs / Radiology
   248 K/uL
   11.3 g/dL
   154 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   30 mg/dL
   111 mEq/L
   143 mEq/L
   35.3 %
   17.3 K/uL
        [image002.jpg]
                             [**2119-4-5**]  12:07 PM
                             [**2119-4-5**]  02:36 PM
                             [**2119-4-5**]  04:36 PM
                             [**2119-4-5**]  06:00 PM
                             [**2119-4-5**]  11:37 PM
                             [**2119-4-6**]  03:32 AM
                             [**2119-4-6**]  04:03 AM
                             [**2119-4-6**]  05:06 AM
                             [**2119-4-6**]  05:17 AM
                             [**2119-4-6**]  06:15 AM
   WBC
   17.3
   Hct
   35.3
   Plt
   248
   Cr
   1.0
   1.1
   1.7
   TCO2
   23
   21
   25
   22
   18
   22
   23
   Glucose
   96
   106
   154
   Other labs: PT / PTT / INR:42.1/34.1/4.5, CK / CKMB /
   Troponin-T:175/18/0.15, ALT / AST:43/70, Alk Phos / T Bili:57/0.3,
   Differential-Neuts:79.9 %, Lymph:16.7 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:344 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CT head final read, periventricular hypodensity, possibly
   chronic, but given territory and presentation, cannot exclude
   hypoperfusion injury.
   Microbiology: Blood and urine cultures pending.
   ECG: .
   ASSESSMENT
   .
   This 70-year-old man has had a witnessed cardiac arrest at home with
   CRP by his daughter at the scene. VF was noted in EMS. He was rapidly
   cooled, but his neurologic unresponsiveness and myoclonus is concerning
   for severe hypoxic injury. The etiology of this presentation is
   unclear.
   .
   PLAN
   .
   Coma
     GCS 3. Spinal relexes 3+ now, mute plantar, without brainstem
   reflexes. However, appropriate respiratory drive given pH and CO2,
   suggesting brainstem respiratory circuitry largely intact. EEG still
   quite isoelectric with some beta with benzodiazepines. Return of burst
   suppression pattern when Versed and fentanyl were held this morning.
   Also some generalized myoclonic jerks. Altogether some recovery seen
   (spinal reflexes and only minimal ataxic breathing at presentation),
   but little and prognosis likely still bad. Neurology are following and
   will help prognosticate/manage. Family aware of these thoughts,
   broadly.
   - EEG overnight or 48 hours
   - Appreciate Neurology input with respect to EEG
   - Continue cooling for 12 - 24 hours, per protocol, then re-evaluate
   neurologic status as rewarmed, sedation and paralysis weaned.
   - Stop dilantin, per later recs from Neurlogy team.
   .
   Cardiorespiratory (VF?) Arrest
     Differential diagnosis includes arhythmia, pulmonary embolism,
   myocardial ischemia, perhaps resulting in arhythmia, toxic. CTA was
   negative on wet read, ischemia appears not to be profound, given
   enzymes and EKG, toxicity is possible. Arhythmia is possible,
   particularly if digoxin was being taken incorrectly, if too much
   methylphenidate was being taken (he was recorded as taking 20 mg).
   Given low level of digoxin (0.7) and history of non-compliance with
   glipizide dosing (per PCP), medication non-compliance or error is also
   possible. He takes three anti-arhythmic medications (atenolol,
   diltiazem and digoxin). Was likely VF arrest based on EMS report. Given
   that he struck his head, likely arrhythmia (sudden LOC).
   - Telemetry
   - Was on diltiazem 300 mg/d and atenolol 100 mg/d, so may need to add
   some block back
   - metoprolol 5 mg IV q4h
   .
   Arhythmia, Ventricular ectopy
     Substantial ventricular ectopy, short runs of VT. Patient takes
   diltiazem, atenolol, digoxin at home. Given frequent ectopy will add
   back small doses, given cooling.
   - Metoprolol 5 mg IV q4h
   - Hold digoxin, diltiazem
   - Telemetry
   - EKG in a.m.
   - Hold warfarin - supratherapeutic
   .
   Gastroparesis
     In context of arrest, possible hypoperfusion, then paralysis
   - Try pro-cholinergics if desire to give PO meds or tube feeds
 hold
   off for now
   .
   Fluid status
     No Pos given above and now quite negative by Is&Os.
   - Maintenance 1/2NSD5W at 125 cc/hr for 1 L then reevaluate
   .
   Hypotension (and hypertension)
     Improved with some fluid and brief phenylephrine. Was transient after
   catheterization, sedation, cooling. Now improved, but only relative
   given that we are hold antihypertensive meds.
   - Fluids and pressors to support pressure (phenylephrine)
   - Hold antihypertensives (enalapril, atenolol, diltiazem)
   .
   Coronary Artery Disease
     Active disease that is not thought to be sufficiently flow-limiting
   to produce symptomatic disease. Troponin/enzyme leak not surprising
   given DC cardioversion x 2 or 3 (unclear) and chest compressions, along
   with hypotension, hypoxia.
   - Telemetry
   - Continue rosuvastatin 20 mg
   - ASA 325 mg
   .
   Question of Gastrointestinal Bleeding
     Low suspicion now. Will not impact management at present. Some likely
   clot as cast within OG tube and then removed retaining shape. No other
   blood or concerning output. Could not suction stomach - think may be
   against wall. Low suspicion at present and Hct stable.
   - Continue ASA 325 given CAD
   - Follow hematocrit
   .
   Diabetes
     Insulin IV for now, given hyperglycemia on arrival.
   - Convert to sliding scale
   - Hold metformin and glipizide while inpatient
   .
   Critical Care and Ventilator
   CMV on Arctic Sun. Now PSV and hypoxia despite good pH and CO2,
   suggestive of exchange limit
 likely secretions.
   - Intubation - change endotracheal tube for larger size in a.m. if any
   difficulties suctioning (only a 6)
   - Continue PSV, increase PEEP and try to wean FiO2
   .
   Head Injury
     Head CT clears for bleed and facture. Neck CT/spine CT not performed.
   - Keep in [**Location (un) 408**] J collar for now
   .
   Liver Enzyme Abnormalities
     Likely early shock liver, but may be medication induced or other.
   Will rise rapidly if shock liver.
   - Follow in a.m.
   .
   Acidosis
     Lactic acidosis, along with respiratory acidosis. Has gap that is
   closing and tracking lactate. Will check blood and urine cultures also,
   but likely secondary to hypoxia. Trending down.
   - Follow blood gas
   .
   Depression
   - Hold fluoxetine (t1/2 4 - 6 days)
   .
   GERD
     Given some possible UGIB:
   - Hold omeprazole
   - Give IV pantoprazole 40 mg [**Hospital1 **]
   .
   Inattentiveness
   - Hold methylphenidate 20 mg for now
   .
   BPH
   - Hold finasteride 5 mg for now
   .
   FEN:
   - No fluid for now
   - Electrolytes: Keep K > 4 and Mg > 2
   - No nutrition for tonight
   .
   ACCESS: PIV, femoral central venous line, femoral arterial line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with fentanyl
   -Bowel regimen with colace, senna, bisacodyl
   .
   CODE: Full code
   .
   COMM:
   Mrs. [**Known lastname 12604**] [**Telephone/Fax (1) 12607**], home [**Telephone/Fax (1) 12608**], daughter ([**Name (NI) 284**]) [**Telephone/Fax (1) 12609**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2119-4-4**] 02:55 PM
   20 Gauge - [**2119-4-4**] 03:00 PM
   Multi Lumen - [**2119-4-4**] 05:15 PM
   Arterial Line - [**2119-4-4**] 05:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10742**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2119-4-7**] 13:30 ------

2119-04-07 08:06:00 Physician Resident Progress Note
Chief Complaint: VF arrest.
   24 Hour Events:
   - 5:30P developed bigemeny for 15 mins, lytes okay, resolved
   spontaneously
   - dilantin stopped
   - ET tube changed from 6 to 8 (received paralytic for this)
   - ET tube advanced, still seems 6.6cm above, need to f/u final read
   - CXR demonstrates right lower lobe and partial right middle lobe
   collapse
   - increasing FiO2 and PEEP requirements over course of day; adjusted
   vent settings without significant improvement. Added fentanyl to
   increase sedation, not effective. Re-paralysed.
   - He was desynchronous with the ventilator, so re-paralysed.
   Unfortunately, Neurology came by when ETT was being changed, and
   paralytics had been started more by protocol than by necessity, it
   would seem. Neurology ask that we hold paralysis and then sedation
   before they come in the morning, so that they can evaluate more
   usefully.
   - discussed with IP; suggest no major changes, consider pulm consult
   tomorrow
   - pt spiked fever to 104, started to develop brown sputum purulent
   appaering, despite lack of infiltrate we started emperic
   vanc/zosyn/levo given profound hypoxia
   - now sputum growing GNRs 4+ in a good sample, good thing we started
   abx!!
   Allergies:
   Ibuprofen
   GI upset;
   Procainamide
   Diarrhea;
   Sotalol
   Fatigue;
   Amiodarone
   'Slight decrea
   Last dose of Antibiotics:
   Levofloxacin - [**2119-4-6**] 09:00 PM
   Vancomycin - [**2119-4-6**] 09:23 PM
   Piperacillin - [**2119-4-7**] 01:53 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2119-4-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-7**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   HR: 100 (79 - 107) bpm
   BP: 111/55(73) {101/47(66) - 189/76(111)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,316 mL
                                                                    343 mL
   PO:
             TF:
   IVF:
                                                                  3,316 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    675 mL
   Urine:
                                                                    465 mL
                                                                    675 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  2,251 mL
                                                                   -332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 933 (657 - 933) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.30/44/95.[**Numeric Identifier 252**]/23/-4
   Ve: 14.3 L/min
   PaO2 / FiO2: 95
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   11.3 g/dL
   181 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.7 mEq/L
   38 mg/dL
   107 mEq/L
   139 mEq/L
   34.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2119-4-6**]  05:17 AM
                             [**2119-4-6**]  06:15 AM
                             [**2119-4-6**]  12:06 PM
                             [**2119-4-6**]  01:09 PM
                             [**2119-4-6**]  03:30 PM
                             [**2119-4-6**]  06:11 PM
                             [**2119-4-6**]  08:36 PM
                             [**2119-4-7**]  12:56 AM
                             [**2119-4-7**]  03:10 AM
                             [**2119-4-7**]  03:27 AM
   WBC
   16.5
   14.7
   Hct
   35.0
   34.4
   Plt
   238
   200
   Cr
   2.0
   1.5
   TropT
   0.09
   TCO2
   22
   23
   22
   22
   22
   21
   24
   23
   Glucose
   135
   181
   Other labs: PT / PTT / INR:39.6/38.9/4.1, CK / CKMB /
   Troponin-T:561/8/0.09, ALT / AST:29/89, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:79.9 %, Lymph:16.7 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:344 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No CXR since yesterday.
   Microbiology: GNRs in sputum - covered.
   ECG: No new today.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEIZURE, WITH STATUS EPILEPTICUS
 DIABETES MELLITUS (DM), TYPE I
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-4-4**] 02:55 PM
   Multi Lumen - [**2119-4-4**] 05:15 PM
   Arterial Line - [**2119-4-4**] 05:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2119-04-07 08:06:00 Physician Resident Progress Note
Chief Complaint: VF arrest.
   24 Hour Events:
   - 5:30P developed bigemeny for 15 mins, lytes okay, resolved
   spontaneously
   - dilantin stopped
   - ET tube changed from 6 to 8 (received paralytic for this)
   - ET tube advanced, still seems 6.6cm above, need to f/u final read
   - CXR demonstrates right lower lobe and partial right middle lobe
   collapse
   - increasing FiO2 and PEEP requirements over course of day; adjusted
   vent settings without significant improvement. Added fentanyl to
   increase sedation, not effective. Re-paralysed.
   - He was desynchronous with the ventilator, so re-paralysed.
   Unfortunately, Neurology came by when ETT was being changed, and
   paralytics had been started more by protocol than by necessity, it
   would seem. Neurology ask that we hold paralysis and then sedation
   before they come in the morning, so that they can evaluate more
   usefully.
   - discussed with IP; suggest no major changes, consider pulm consult
   tomorrow
   - pt spiked fever to 104, started to develop brown sputum purulent
   appaering, despite lack of infiltrate we started emperic
   vanc/zosyn/levo given profound hypoxia
   - now sputum growing GNRs 4+ in a good sample, good thing we started
   abx!!
   Allergies:
   Ibuprofen
   GI upset;
   Procainamide
   Diarrhea;
   Sotalol
   Fatigue;
   Amiodarone
   'Slight decrea
   Last dose of Antibiotics:
   Levofloxacin - [**2119-4-6**] 09:00 PM
   Vancomycin - [**2119-4-6**] 09:23 PM
   Piperacillin - [**2119-4-7**] 01:53 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2119-4-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-7**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   HR: 100 (79 - 107) bpm
   BP: 111/55(73) {101/47(66) - 189/76(111)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,316 mL
                                                                    343 mL
   PO:
             TF:
   IVF:
                                                                  3,316 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    675 mL
   Urine:
                                                                    465 mL
                                                                    675 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  2,251 mL
                                                                   -332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 933 (657 - 933) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.30/44/95.[**Numeric Identifier 252**]/23/-4
   Ve: 14.3 L/min
   PaO2 / FiO2: 95
   Physical Examination
   GENERAL: Overweight man with myoclonus every 10 to 20 seconds involving
   limbs, primarily. GCS 3. Looks stated age.
   HEENT: NCAT. Sclera anicteric. Pupils fixed in mid-position.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple, JVP not evaluated - patient flat.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Intubated with mechanical ventilation, occasional overbreaths of
   vent initially. Bilateral air entry. No loud adventitious sounds
   anteriorly, laterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   NEUROLOGIC: Myoclonus every 10 to 20 seconds involving limbs,
   primarily, but only when Versed and propofol stopped.  GCS 3. Comatose.
   No puposive movements. Myoclonus only. No withdrawal to very firm
   nail-bed pressure. No brainstem reflexes (apart from breathing on PSV
   as evidence of some brainstem function). Spinal reflexes 3+ throughout
   without plantar response. Tone flacid. Bulk normal. Myoclonus present
   in all limbs, but strength could not be assessed.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Trophic
   changes evident at feet/ankles.
   Labs / Radiology
   200 K/uL
   11.3 g/dL
   181 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.7 mEq/L
   38 mg/dL
   107 mEq/L
   139 mEq/L
   34.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2119-4-6**]  05:17 AM
                             [**2119-4-6**]  06:15 AM
                             [**2119-4-6**]  12:06 PM
                             [**2119-4-6**]  01:09 PM
                             [**2119-4-6**]  03:30 PM
                             [**2119-4-6**]  06:11 PM
                             [**2119-4-6**]  08:36 PM
                             [**2119-4-7**]  12:56 AM
                             [**2119-4-7**]  03:10 AM
                             [**2119-4-7**]  03:27 AM
   WBC
   16.5
   14.7
   Hct
   35.0
   34.4
   Plt
   238
   200
   Cr
   2.0
   1.5
   TropT
   0.09
   TCO2
   22
   23
   22
   22
   22
   21
   24
   23
   Glucose
   135
   181
   Other labs: PT / PTT / INR:39.6/38.9/4.1, CK / CKMB /
   Troponin-T:561/8/0.09, ALT / AST:29/89, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:79.9 %, Lymph:16.7 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:344 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No CXR since yesterday.
   Microbiology: GNRs in sputum - covered.
   ECG: No new today.
   ASSESSMENT
   .
   This 70-year-old man has had a witnessed cardiac arrest at home with
   CRP by his daughter at the scene. VF was noted in EMS. He was rapidly
   cooled, but his neurologic unresponsiveness and myoclonus is concerning
   for severe hypoxic injury. The etiology of this presentation is
   unclear.
   .
   PLAN
   .
   Coma
     GCS 3. Spinal relexes 3+ now, mute plantar, without brainstem
   reflexes. However, appropriate respiratory drive given pH and CO2,
   suggesting brainstem respiratory circuitry largely intact. EEG still
   quite isoelectric with some beta with benzodiazepines. Return of burst
   suppression pattern when Versed and fentanyl were held this morning.
   Also some generalized myoclonic jerks. Altogether some recovery seen
   (spinal reflexes and only minimal ataxic breathing at presentation),
   but little and prognosis likely still bad. Neurology are following and
   will help prognosticate/manage. Family aware of these thoughts,
   broadly.
   - EEG overnight or 48 hours
   - Appreciate Neurology input with respect to EEG
   - Continue cooling for 12 - 24 hours, per protocol, then re-evaluate
   neurologic status as rewarmed, sedation and paralysis weaned.
   - Stop dilantin, per later recs from Neurlogy team.
   .
   Cardiorespiratory (VF?) Arrest
     Differential diagnosis includes arhythmia, pulmonary embolism,
   myocardial ischemia, perhaps resulting in arhythmia, toxic. CTA was
   negative on wet read, ischemia appears not to be profound, given
   enzymes and EKG, toxicity is possible. Arhythmia is possible,
   particularly if digoxin was being taken incorrectly, if too much
   methylphenidate was being taken (he was recorded as taking 20 mg).
   Given low level of digoxin (0.7) and history of non-compliance with
   glipizide dosing (per PCP), medication non-compliance or error is also
   possible. He takes three anti-arhythmic medications (atenolol,
   diltiazem and digoxin). Was likely VF arrest based on EMS report. Given
   that he struck his head, likely arrhythmia (sudden LOC).
   - Telemetry
   - Was on diltiazem 300 mg/d and atenolol 100 mg/d, so may need to add
   some block back
   - metoprolol 5 mg IV q4h
   .
   Arhythmia, Ventricular ectopy
     Substantial ventricular ectopy, short runs of VT. Patient takes
   diltiazem, atenolol, digoxin at home. Given frequent ectopy will add
   back small doses, given cooling.
   - Metoprolol 5 mg IV q4h
   - Hold digoxin, diltiazem
   - Telemetry
   - EKG in a.m.
   - Hold warfarin - supratherapeutic
   .
   Gastroparesis
     In context of arrest, possible hypoperfusion, then paralysis
   - Try pro-cholinergics if desire to give PO meds or tube feeds
 hold
   off for now
   .
   Fluid status
     No Pos given above and now quite negative by Is&Os.
   - Maintenance 1/2NSD5W at 125 cc/hr for 1 L then reevaluate
   .
   Hypotension (and hypertension)
     Improved with some fluid and brief phenylephrine. Was transient after
   catheterization, sedation, cooling. Now improved, but only relative
   given that we are hold antihypertensive meds.
   - Fluids and pressors to support pressure (phenylephrine)
   - Hold antihypertensives (enalapril, atenolol, diltiazem)
   .
   Coronary Artery Disease
     Active disease that is not thought to be sufficiently flow-limiting
   to produce symptomatic disease. Troponin/enzyme leak not surprising
   given DC cardioversion x 2 or 3 (unclear) and chest compressions, along
   with hypotension, hypoxia.
   - Telemetry
   - Continue rosuvastatin 20 mg
   - ASA 325 mg
   .
   Question of Gastrointestinal Bleeding
     Low suspicion now. Will not impact management at present. Some likely
   clot as cast within OG tube and then removed retaining shape. No other
   blood or concerning output. Could not suction stomach - think may be
   against wall. Low suspicion at present and Hct stable.
   - Continue ASA 325 given CAD
   - Follow hematocrit
   .
   Diabetes
     Insulin IV for now, given hyperglycemia on arrival.
   - Convert to sliding scale
   - Hold metformin and glipizide while inpatient
   .
   Critical Care and Ventilator
   CMV on Arctic Sun. Now PSV and hypoxia despite good pH and CO2,
   suggestive of exchange limit
 likely secretions.
   - Intubation - change endotracheal tube for larger size in a.m. if any
   difficulties suctioning (only a 6)
   - Continue PSV, increase PEEP and try to wean FiO2
   .
   Head Injury
     Head CT clears for bleed and facture. Neck CT/spine CT not performed.
   - Keep in [**Location (un) 408**] J collar for now
   .
   Liver Enzyme Abnormalities
     Likely early shock liver, but may be medication induced or other.
   Will rise rapidly if shock liver.
   - Follow in a.m.
   .
   Acidosis
     Lactic acidosis, along with respiratory acidosis. Has gap that is
   closing and tracking lactate. Will check blood and urine cultures also,
   but likely secondary to hypoxia. Trending down.
   - Follow blood gas
   .
   Depression
   - Hold fluoxetine (t1/2 4 - 6 days)
   .
   GERD
     Given some possible UGIB:
   - Hold omeprazole
   - Give IV pantoprazole 40 mg [**Hospital1 **]
   .
   Inattentiveness
   - Hold methylphenidate 20 mg for now
   .
   BPH
   - Hold finasteride 5 mg for now
   .
   FEN:
   - No fluid for now
   - Electrolytes: Keep K > 4 and Mg > 2
   - No nutrition for tonight
   .
   ACCESS: PIV, femoral central venous line, femoral arterial line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with fentanyl
   -Bowel regimen with colace, senna, bisacodyl
   .
   CODE: Full code
   .
   COMM:
   Mrs. [**Known lastname 12604**] [**Telephone/Fax (1) 12607**], home [**Telephone/Fax (1) 12608**], daughter ([**Name (NI) 284**]) [**Telephone/Fax (1) 12609**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-4-4**] 02:55 PM
   Multi Lumen - [**2119-4-4**] 05:15 PM
   Arterial Line - [**2119-4-4**] 05:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2119-04-07 08:06:00 Physician Resident Progress Note
Chief Complaint: VF arrest.
   24 Hour Events:
   - 5:30P developed bigemeny for 15 mins, lytes okay, resolved
   spontaneously
   - dilantin stopped
   - ET tube changed from 6 to 8 (received paralytic for this)
   - ET tube advanced, still seems 6.6cm above, need to f/u final read
   - CXR demonstrates right lower lobe and partial right middle lobe
   collapse
   - increasing FiO2 and PEEP requirements over course of day; adjusted
   vent settings without significant improvement. Added fentanyl to
   increase sedation, not effective. Re-paralysed.
   - He was desynchronous with the ventilator, so re-paralysed.
   Unfortunately, Neurology came by when ETT was being changed, and
   paralytics had been started more by protocol than by necessity, it
   would seem. Neurology ask that we hold paralysis and then sedation
   before they come in the morning, so that they can evaluate more
   usefully.
   - discussed with IP; suggest no major changes, consider pulm consult
   tomorrow
   - pt spiked fever to 104, started to develop brown sputum purulent
   appaering, despite lack of infiltrate we started emperic
   vanc/zosyn/levo given profound hypoxia
   - now sputum growing GNRs 4+ in a good sample, good thing we started
   abx!!
   Allergies:
   Ibuprofen
   GI upset;
   Procainamide
   Diarrhea;
   Sotalol
   Fatigue;
   Amiodarone
   'Slight decrea
   Last dose of Antibiotics:
   Levofloxacin - [**2119-4-6**] 09:00 PM
   Vancomycin - [**2119-4-6**] 09:23 PM
   Piperacillin - [**2119-4-7**] 01:53 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2119-4-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-7**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   HR: 100 (79 - 107) bpm
   BP: 111/55(73) {101/47(66) - 189/76(111)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,316 mL
                                                                    343 mL
   PO:
             TF:
   IVF:
                                                                  3,316 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    675 mL
   Urine:
                                                                    465 mL
                                                                    675 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  2,251 mL
                                                                   -332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 933 (657 - 933) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.30/44/95.[**Numeric Identifier 252**]/23/-4
   Ve: 14.3 L/min
   PaO2 / FiO2: 95
   Physical Examination
   GENERAL: Overweight man with myoclonus every 10 to 20 seconds involving
   limbs, primarily. GCS 3. Looks stated age.
   HEENT: NCAT. Sclera anicteric. Pupils fixed in mid-position.
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: Supple, JVP not evaluated - patient flat.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Intubated with mechanical ventilation, occasional overbreaths of
   vent initially. Bilateral air entry. No loud adventitious sounds
   anteriorly, laterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   NEUROLOGIC: Myoclonus every 10 to 20 seconds involving limbs,
   primarily, but only when Versed and propofol stopped.  GCS 3. Comatose.
   No puposive movements. Myoclonus only. No withdrawal to very firm
   nail-bed pressure. No brainstem reflexes (apart from breathing on PSV
   as evidence of some brainstem function). Spinal reflexes 3+ throughout
   without plantar response. Tone flacid. Bulk normal. Myoclonus present
   in all limbs, but strength could not be assessed.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Trophic
   changes evident at feet/ankles.
   Labs / Radiology
   200 K/uL
   11.3 g/dL
   181 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.7 mEq/L
   38 mg/dL
   107 mEq/L
   139 mEq/L
   34.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2119-4-6**]  05:17 AM
                             [**2119-4-6**]  06:15 AM
                             [**2119-4-6**]  12:06 PM
                             [**2119-4-6**]  01:09 PM
                             [**2119-4-6**]  03:30 PM
                             [**2119-4-6**]  06:11 PM
                             [**2119-4-6**]  08:36 PM
                             [**2119-4-7**]  12:56 AM
                             [**2119-4-7**]  03:10 AM
                             [**2119-4-7**]  03:27 AM
   WBC
   16.5
   14.7
   Hct
   35.0
   34.4
   Plt
   238
   200
   Cr
   2.0
   1.5
   TropT
   0.09
   TCO2
   22
   23
   22
   22
   22
   21
   24
   23
   Glucose
   135
   181
   Other labs: PT / PTT / INR:39.6/38.9/4.1, CK / CKMB /
   Troponin-T:561/8/0.09, ALT / AST:29/89, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:79.9 %, Lymph:16.7 %, Mono:2.3 %, Eos:0.4 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:344 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: No CXR since yesterday.
   Microbiology: GNRs in sputum - covered.
   ECG: No new today.
   ASSESSMENT
   .
   This 70-year-old man has had a witnessed cardiac arrest at home with
   CRP by his daughter at the scene. VF was noted in EMS. He was rapidly
   cooled, but his neurologic unresponsiveness and myoclonus is concerning
   for severe hypoxic injury. The etiology of this presentation is
   unclear.
   .
   PLAN
   .
   Coma
      Neurology have been very helpful in understanding deficits and
   prognosis. He has at least some preserved medullary function, as
   evidenced by breathing well on pressure support. He had a sluggish
   response to caloric stimulation, but is otherwise without other
   evidence of pontine/midbrain function. No evidence of cortical
   function. Per Neurology, good outcome can not be expected
 please see
   their note.
   - Discuss with family
   - Appreciate Neurology input as above
   .
   Cardiorespiratory (VF?) Arrest
     Differential diagnosis includes arhythmia, pulmonary embolism,
   myocardial ischemia, perhaps resulting in arhythmia, toxic. CTA was
   negative on wet read, ischemia appears not to be profound, given
   enzymes and EKG, toxicity is possible. Arhythmia is possible,
   particularly if digoxin was being taken incorrectly, if too much
   methylphenidate was being taken (he was recorded as taking 20 mg).
   Given low level of digoxin (0.7) and history of non-compliance with
   glipizide dosing (per PCP), medication non-compliance or error is also
   possible. He takes three anti-arhythmic medications (atenolol,
   diltiazem and digoxin). Was likely VF arrest based on EMS report. Given
   that he struck his head, likely arrhythmia (sudden LOC).
   - Telemetry
   - Was on diltiazem 300 mg/d and atenolol 100 mg/d, so may need to add
   some block back
   - metoprolol 5 mg IV q4h
   .
   Arhythmia, Ventricular ectopy
     Substantial ventricular ectopy, short runs of VT. Patient takes
   diltiazem, atenolol, digoxin at home. Given frequent ectopy will add
   back small doses, given cooling.
   - Metoprolol 5 mg IV q4h
   - Hold digoxin, diltiazem
   - Telemetry
   - EKG in a.m.
   - Hold warfarin - supratherapeutic
   .
   Gastroparesis
     In context of arrest, possible hypoperfusion, then paralysis
   - Try pro-cholinergics if desire to give PO meds or tube feeds
 hold
   off for now
   .
   Fluid status
     No Pos given above and now quite negative by Is&Os.
   - Maintenance 1/2NSD5W at 125 cc/hr for 1 L then reevaluate
   .
   Hypotension (and hypertension)
     Improved with some fluid and brief phenylephrine. Was transient after
   catheterization, sedation, cooling. Now improved, but only relative
   given that we are hold antihypertensive meds.
   - Fluids and pressors to support pressure (phenylephrine)
   - Hold antihypertensives (enalapril, atenolol, diltiazem)
   .
   Coronary Artery Disease
     Active disease that is not thought to be sufficiently flow-limiting
   to produce symptomatic disease. Troponin/enzyme leak not surprising
   given DC cardioversion x 2 or 3 (unclear) and chest compressions, along
   with hypotension, hypoxia.
   - Telemetry
   - Continue rosuvastatin 20 mg
   - ASA 325 mg
   .
   Question of Gastrointestinal Bleeding
     Low suspicion now. Will not impact management at present. Some likely
   clot as cast within OG tube and then removed retaining shape. No other
   blood or concerning output. Could not suction stomach - think may be
   against wall. Low suspicion at present and Hct stable.
   - Continue ASA 325 given CAD
   - Follow hematocrit
   .
   Diabetes
     Insulin IV for now, given hyperglycemia on arrival.
   - Convert to sliding scale
   - Hold metformin and glipizide while inpatient
   .
   Critical Care and Ventilator
   CMV on Arctic Sun. Now PSV and hypoxia despite good pH and CO2,
   suggestive of exchange limit
 likely secretions.
   - Intubation - change endotracheal tube for larger size in a.m. if any
   difficulties suctioning (only a 6)
   - Continue PSV, increase PEEP and try to wean FiO2
   .
   Head Injury
     Head CT clears for bleed and facture. Neck CT/spine CT not performed.
   - Keep in [**Location (un) 408**] J collar for now
   .
   Liver Enzyme Abnormalities
     Likely early shock liver, but may be medication induced or other.
   Will rise rapidly if shock liver.
   - Follow in a.m.
   .
   Acidosis
     Lactic acidosis, along with respiratory acidosis. Has gap that is
   closing and tracking lactate. Will check blood and urine cultures also,
   but likely secondary to hypoxia. Trending down.
   - Follow blood gas
   .
   Depression
   - Hold fluoxetine (t1/2 4 - 6 days)
   .
   GERD
     Given some possible UGIB:
   - Hold omeprazole
   - Give IV pantoprazole 40 mg [**Hospital1 **]
   .
   Inattentiveness
   - Hold methylphenidate 20 mg for now
   .
   BPH
   - Hold finasteride 5 mg for now
   .
   FEN:
   - No fluid for now
   - Electrolytes: Keep K > 4 and Mg > 2
   - No nutrition for tonight
   .
   ACCESS: PIV, femoral central venous line, femoral arterial line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with fentanyl
   -Bowel regimen with colace, senna, bisacodyl
   .
   CODE: Full code
   .
   COMM:
   Mrs. [**Known lastname 12604**] [**Telephone/Fax (1) 12607**], home [**Telephone/Fax (1) 12608**], daughter ([**Name (NI) 284**]) [**Telephone/Fax (1) 12609**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-4-4**] 02:55 PM
   Multi Lumen - [**2119-4-4**] 05:15 PM
   Arterial Line - [**2119-4-4**] 05:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU